US08232404B2
Preparation of 4-chlorophenyl 3-((1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)methyl)azetidine-1-carboxylate
Example 21 was prepared according to procedures described in Example 2, Step A and Step C, substituting tert-butyl 3-((1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)methyl)azetidine-1-carboxylate for tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate in Step A and 4-chlorophenyl chloroformate for 1,1,1-trifluoropropan-2-yl chloroformate in Step C. 1H NMR (500 MHz, CDCl3) δ 8.09 (d, J=8.25 Hz, 2 H), 7.62 (d, J=8.80 Hz, 2 H), 7.29-7.36 (m, 3 H), 7.05-7.12 (m, 2 H), 6.16-6.25 (m, 2 H), 4.38 (app br. s, 1 H), 4.28 (app br. s, 1 H), 4.21 (d, J=6.05 Hz, 2 H), 4.09 (app br. s, 1 H), 4.00 (app br. s, 1 H), 3.14-3.23 (m, 1 H), 3.11 (s, 3 H). MS (ESI) 489 (M+H).

reactant | tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O6S
reactant | 4-chlorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | 1,1,1-trifluoropropan-2-yl chloroformate | ClC(=O)OC(C(F)(F)F)C | C4H4ClF3O2
product | 4-chlorophenyl 3-((1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)methyl)azetidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OCC1CN(C1)C(=O)OC1=CC=C(C=C1)Cl)=O | C23H21ClN2O6S
